US04053601
3-Chloro-6-(2,4-dihydroxyphenyl)pyridazine (1 mole) was treated with ethyl chloroformate (1.1 mole) in pyridine to give 3-chloro-6-(4-ethoxycarbonyloxy-2-hydroxyphenyl)pyridazine.

reactant | 3-Chloro-6-(2,4-dihydroxyphenyl)pyridazine | 1 mole | ClC=1N=NC(=CC1)C1=C(C=C(C=C1)O)O | C10H7ClN2O2
reactant | ethyl chloroformate | 1.1 mole | ClC(=O)OCC | C3H5ClO2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 3-chloro-6-(4-ethoxycarbonyloxy-2-hydroxyphenyl)pyridazine | ClC=1N=NC(=CC1)C1=C(C=C(C=C1)OC(=O)OCC)O | C13H11ClN2O4
